US05047411
A mixture of 2-[2-{4-(3-ethylureido)-3-hydroxyphenyl}ethyl]pyridine (3.3 g) and polyphosphate ester (30 g) was stirred at 90° to 100° C. for 1.5 hours. The reaction mixture was dissolved in a mixture of ethyl acetate, tetrahydrofuran and water and the resultant solution was adjusted to pH 8 with potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The crude product obtained by concentration was purified by silica gel column chromatography eluting with a solution of chloroform and methanol (39:1 V/V). The eluted fractions containing desired product were evaporated to give 6-[2-(2-pyridyl)ethyl]-2-ethylaminobenzoxazole (0.5 g).

reactant | 2-[2-{4-(3-ethylureido)-3-hydroxyphenyl}ethyl]pyridine | 3.3 g | C(C)NC(NC1=C(C=C(C=C1)CCC1=NC=CC=C1)O)=O | C16H19N3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 6-[2-(2-pyridyl)ethyl]-2-ethylaminobenzoxazole | 0.5 g | N1=C(C=CC=C1)CCC1=CC2=C(N=C(O2)NCC)C=C1 | C16H17N3O
